US06949542B2
{2-[3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-4-trifluoromethoxy-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester (Example J26) (219 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester (Example K3) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as a yellow solid (271 mg, 69%).

reactant | (2-amino-4-trifluoromethoxy-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 219 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)N)=O | C12H15F3N2O3
reactant | 3-oxo-3-(3-pyridin-2-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O | C18H19NO3
product | {2-[3-Oxo-3-(3-pyridin-2-yl-phenyl)-propionylamino]-4-trifluoromethoxy-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OC(F)(F)F)NC(CC(C1=CC(=CC=C1)C1=NC=CC=C1)=O)=O)=O | C26H24F3N3O5
